US04510256
Preparation of N-Ethyl Quinuclidinium Iodide
20 grams of Quinuclidine (1 Aza bicyclo [2.2.2] octane, Aldrich) were dissolved in 100 ml of chloroform with stirring and cooling in an ice bath. 28.08 Grams of ethyl iodide (Aldrich) were added dropwise. The mixture became cloudy and was stirred overnight, slowly coming to room temperature. Acetone was added to the solution and then, with stirring, diethyl ether was added dropwise until crystals formed. The filtered solids were washed with acetone and dried under vacuum. The product had the correct microanalysis for C, H, and N.

reactant | Quinuclidine | 20 grams | N12CCC(CC1)CC2 | C7H13N
reactant | ethyl iodide | C(C)I | C2H5I
reactant | Acetone | CC(=O)C | C3H6O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Ethyl Quinuclidinium Iodide | [I-].C(C)[N+]12CCC(CC1)CC2 | InChI=1S/C9H18N.HI/c1-2-10-6-3-9(4-7-10)5-8-10;/h9H,2-8H2,1H3;1H/q+1;/p-1
